US07074801B1
5-Vinylpyridin-2-yl amine
4.13 g 5-bromopyridin-2-yl amine, 7.95 g tributyl(vinyl)tin and 1.38 g tetrakis(triphenylphosphine)palladium were heated in 70 mL xylene at 120° C. for 3 hours under nitrogen atmosphere. The solvent was removed, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate), to give 1.3 g of the title compound as pale yellow crystals.

reactant | 5-bromopyridin-2-yl amine | 4.13 g | BrC=1C=CC(=NC1)N | C5H5BrN2
reactant | tributyl(vinyl)tin | 7.95 g | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | xylene | 70 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | tetrakis(triphenylphosphine)palladium | 1.38 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Vinylpyridin-2-yl amine | 1.3 g | C(=C)C=1C=CC(=NC1)N | C7H8N2
